US04063025
A mixture of 5 g. of 4-amino-3,5-dichloroacetophenone, 5 ml. of phosgene, and 30 ml. of toluene was heated to 150° C. for 24 hours in a sealed tube. The reaction mixture was cooled and concentrated under reduced pressure to provide crude 4-acetyl-2,6-dichlorophenyl isocyanate. The crude product was dissolved in 100 ml. of toluene and then dry dimethylamine was passed through the solution for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure and the residue formed was recrystallized from a mixture of benzene and n-hexane to provide 2.58 g. of 3,5-dichloro-4-N,N-dimethylcarbamoylaminoacetophenone having a melting point of 138°-140° C.

reactant | 4-amino-3,5-dichloroacetophenone | CC(=O)C1=CC(=C(C(=C1)Cl)N)Cl | C8H7Cl2NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-acetyl-2,6-dichlorophenyl isocyanate | C(C)(=O)C1=CC(=C(C(=C1)Cl)N=C=O)Cl | C9H5Cl2NO2
